US04943591
N-[5-(2-(4-Fluorophenyl)ethoxy]pentyl]benzenemethanamine hydrochloride
1-[2-[(5-Bromopentyl)oxy]ethyl]-4-fluorobenzene (7.95 g) was added dropwise over 10 min to benzylamine (24 ml) at 125° under nitrogen. The reaction mixture was stirred for 3.5 h at 120° and the hot reaction mixture was poured into 2N aqueous hydrochloric acid (170 ml) and water (220 ml). After stirring for 15 min the precipitate was collected by filtration to give the title compound as a white solid (7.41 g) m.p. 112°.

reactant | 1-[2-[(5-Bromopentyl)oxy]ethyl]-4-fluorobenzene | 7.95 g | BrCCCCCOCCC1=CC=C(C=C1)F | C13H18BrFO
reactant | benzylamine | 24 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | hydrochloric acid | 2N, 170 ml | Cl | ClH
solvent | water | 220 ml | O | H2O
product | N-[5-(2-(4-Fluorophenyl)ethoxy]pentyl]benzenemethanamine hydrochloride | 7.41 g | Cl.FC1=CC=C(C=C1)CCOCCCCCNCC1=CC=CC=C1 | InChI=1S/C20H26FNO.ClH/c21-20-11-9-18(10-12-20)13-16-23-15-6-2-5-14-22-17-19-7-3-1-4-8-19;/h1,3-4,7-12,22H,2,5-6,13-17H2;1H
